2137-12-30 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2137-12-29**] 11:20 AM
   sedated only with 25mcg of fentanyl and 0.5mg of versed.
 COLONOSCOPY - At [**2137-12-29**] 11:45 AM
   only flex sigmoidoscopy,,, unable to see much too much blood. will pre
   for colonscopy tomorrow
   -GI Recs: "EGD and Flex sig performed. EGD revealed mulitiple shallow
   ulcers in the duodenal bulb with evidence of recent bleeding. All were
   clean based with no active bleeding. Check H pylori serology and treat
   if positive, [**Hospital1 **] IV PPI. Flex sig unrevealing due to poor prep but
   given presence of red blood in distal colon, full
   colonoscopy is warrented."
   -Getting prepped, Q6H HCTs remained stable latest at 29.9 at 2330
   -During prep has continued to have several melanotic stools
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2137-12-29**] 09:14 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2137-12-29**] 11:20 AM
   Fentanyl - [**2137-12-29**] 11:20 AM
   Pantoprazole (Protonix) - [**2137-12-29**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-30**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**39**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.1
   HR: 83 (71 - 87) bpm
   BP: 115/66(78) {102/34(56) - 146/86(97)} mmHg
   RR: 14 (13 - 34) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 69.6 kg (admission): 69.6 kg
   Height: 69 Inch
             Total In:
                                                                  8,425 mL
                                                                  1,509 mL
   PO:
                                                                  5,520 mL
                                                                    960 mL
   TF:
   IVF:
                                                                  2,330 mL
                                                                    549 mL
   Blood products:
                                                                    575 mL
   Total out:
                                                                  3,030 mL
                                                                  1,914 mL
   Urine:
                                                                  1,230 mL
                                                                    264 mL
   NG:
   Stool:
                                                                  1,800 mL
                                                                  1,650 mL
   Drains:
   Balance:
                                                                  5,395 mL
                                                                   -405 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   Labs / Radiology
   147 K/uL
   8.9 g/dL
   79 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.5 mEq/L
   26 mg/dL
   110 mEq/L
   149 mEq/L
   26.2 %
   5.7 K/uL
        [image002.jpg]
                             [**2137-12-29**]  12:00 AM
                             [**2137-12-29**]  05:18 AM
                             [**2137-12-29**]  06:04 AM
                             [**2137-12-29**]  08:22 AM
                             [**2137-12-29**]  01:55 PM
                             [**2137-12-29**]  07:45 PM
                             [**2137-12-29**]  11:10 PM
                             [**2137-12-30**]  05:18 AM
   WBC
   5.9
   5.7
   Hct
   30.1
   30.8
   29.5
   30.4
   28.6
   29.9
   26.2
   Plt
   155
   147
   Cr
   0.9
   0.9
   TropT
   0.06
   0.06
   Glucose
   113
   72
   79
   Other labs: PT / PTT / INR:18.7/39.6/1.7, CK / CKMB /
   Troponin-T:77/3/0.06, ALT / AST:87/91, Alk Phos / T Bili:231/3.1,
   Amylase / Lipase:138/18, Albumin:3.2 g/dL, LDH:185 IU/L, Ca++:8.6
   mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 CHOLELITHIASIS
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   # GI Bleed: EGD signficant for duodenol ulcer, and patient has had
   previous UGI bleed.  However, bloody stools in AM were bright red with
   clots, and flex sig significant for Likely lower GI bleed.  Hct drop
   from 36->30 and patient hemodynamically stable.  Per surgery surgery
   holding off on transfusion as hct 30.  Will likely not go to ERCP today
   given bleed.
   - Q6hr hct
   - Has active T&S, piv
   - GI consult
   # Choledocholithiasis with biliary obstruction: with cholestatic rise
   in LFTs:  Currently, patient is afebrile, not tahcycardic, without
   leukocytosis to suggest cholangitis.  Plan was for ERCP today, has
   received 2u ffp but given GI bleed this will be placed on hold.
   - trend fever curve, WBC, transaminitis
   - follow blood cultures
   - Cont unasyn
   - Hold Lasix
   - ERCP deferred given GI bleed
   # Chest pain:  EKG without ischemic changes.  CE stable, likely demand
   ischemia.
   - Third CE set
   - no [**Last Name (LF) 68**], [**First Name3 (LF) 24**] [**Doctor First Name **] (but received 325 mg in the ED)
   - cont. statin, nitrate
   # Afib:
   - cont. rate control with dilt
   - hold coumadin for procedure, restart post-procedure
   # HL:
   - cont. statin
   # BPH:
   - Hold flomax given bleed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2137-12-28**] 10:36 PM
   18 Gauge - [**2137-12-29**] 05:00 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2137-12-29**] 05:00 AM
   20 Gauge - [**2137-12-29**] 02:55 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: